************************************************************************
* auCdl Netlist:
* 
* Library Name:  bitslice_rv32Lib
* Top Cell Name: shift
* View Name:     schematic
* Netlisted on:  Mar 22 22:02:38 2024
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vss!
+        vdd!
+        vdd:P
+        VDD:P
+        vss:G
+        VSS:G

*.PIN vss!
*+    vdd!
*+    vdd
*+    VDD
*+    vss
*+    VSS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    trans
* View Name:    schematic
************************************************************************

.SUBCKT trans A G Gb Z
*.PININFO A:I G:I Gb:I Z:B
MM0 Z Gb A vdd! PMOS_VTL W=180.0n L=50n m=1
MM1 Z G A vss! NMOS_VTL W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv A Z
*.PININFO A:I Z:O
MM0 Z A vdd! vdd! PMOS_VTL W=180.0n L=50n m=1
MM1 Z A vss! vss! NMOS_VTL W=90n L=50n m=1
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    mux2
* View Name:    schematic
************************************************************************

.SUBCKT mux2 A B S0 Z
*.PININFO A:I B:I S0:I Z:O
XI2 B S0 net1 Z / trans
XI1 A net1 S0 Z / trans
XI3 S0 net1 / inv
.ENDS

************************************************************************
* Library Name: stdcell_rv32Lib
* Cell Name:    buf
* View Name:    schematic
************************************************************************

.SUBCKT buf A Z
*.PININFO A:I Z:O
XI1 net2 Z / inv
XI0 A net2 / inv
.ENDS

************************************************************************
* Library Name: bitslice_rv32Lib
* Cell Name:    shift
* View Name:    schematic
************************************************************************

.SUBCKT shift alu_mux_1_out shift_amount<4> shift_amount<3> shift_amount<2> 
+ shift_amount<1> shift_amount<0> shift_dir shift_in_from_left<4> 
+ shift_in_from_left<3> shift_in_from_left<2> shift_in_from_left<1> 
+ shift_in_from_left<0> shift_in_from_right<4> shift_in_from_right<3> 
+ shift_in_from_right<2> shift_in_from_right<1> shift_in_from_right<0> 
+ shift_out<5> shift_out<4> shift_out<3> shift_out<2> shift_out<1> shift_out<0>
*.PININFO alu_mux_1_out:I shift_amount<4>:I shift_amount<3>:I 
*.PININFO shift_amount<2>:I shift_amount<1>:I shift_amount<0>:I shift_dir:I 
*.PININFO shift_in_from_left<4>:I shift_in_from_left<3>:I 
*.PININFO shift_in_from_left<2>:I shift_in_from_left<1>:I 
*.PININFO shift_in_from_left<0>:I shift_in_from_right<4>:I 
*.PININFO shift_in_from_right<3>:I shift_in_from_right<2>:I 
*.PININFO shift_in_from_right<1>:I shift_in_from_right<0>:I shift_out<5>:O 
*.PININFO shift_out<4>:O shift_out<3>:O shift_out<2>:O shift_out<1>:O 
*.PININFO shift_out<0>:O
XI10 shift_out<0> net5 shift_amount<0> shift_out<1> / mux2
XI9 shift_out<1> net4 shift_amount<1> shift_out<2> / mux2
XI8 shift_out<2> net3 shift_amount<2> shift_out<3> / mux2
XI7 shift_out<3> net2 shift_amount<3> shift_out<4> / mux2
XI6 shift_out<4> net1 shift_amount<4> shift_out<5> / mux2
XI5 shift_in_from_right<0> shift_in_from_left<0> shift_dir net5 / mux2
XI4 shift_in_from_right<1> shift_in_from_left<1> shift_dir net4 / mux2
XI3 shift_in_from_right<2> shift_in_from_left<2> shift_dir net3 / mux2
XI2 shift_in_from_right<3> shift_in_from_left<3> shift_dir net2 / mux2
XI1 shift_in_from_right<4> shift_in_from_left<4> shift_dir net1 / mux2
XI29 alu_mux_1_out shift_out<0> / buf
.ENDS

